US05494928
A solution of 1.25 g of 1-acetyl-5-fluoro-3-methoxyindole and 0.35 g of sodium methylate in 23 ml of methanol was stirred at room temperature for one hour. After removal of the solvent the residue was extracted with water and ethyl acetate and the organic phase was washed with saturated sodium chloride solution and dried over sodium sulfate. The solvent was removed and the residue was distilled in a bulb-tube at a bath temperature of 200° and a pressure of 50 mbar. 0.76 g (76%) of 5-fluoro-3-methoxyindole was obtained.

reactant | 1-acetyl-5-fluoro-3-methoxyindole | 1.25 g | C(C)(=O)N1C=C(C2=CC(=CC=C12)F)OC | C11H10FNO2
reactant | sodium methylate | 0.35 g | C[O-].[Na+]
solvent | methanol | 23 ml | CO | CH4O
product | 5-fluoro-3-methoxyindole | 0.76 g, 76% | FC=1C=C2C(=CNC2=CC1)OC | C9H8FNO
